US08242151B2
4-chloro-2-ethoxybenzimidazole
2-Chloro-6-nitroaniline (3.45 g, 20.0 mmol) and stannous chloride dihydrate (18.05 g, 80.0 mmol) were heated under reflux in ethanol (80 mL) for 3 hr. The reaction mixture was neutralized with aqueous sodium hydroxide solution, and the precipitate was filtered off. The filtrate was extracted with ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was mixed with tetraethoxymethane (10 mL, 47.7 mmol) and the mixture was stirred at 130° C. for 12 hr. The reaction mixture was purified by silica gel column chromatography (hexane/ethyl acetate=50/50) to give the title compound (1.38 g, 35%).

reactant | 2-Chloro-6-nitroaniline | 20.0 mmol, 3.45 g | ClC1=C(N)C(=CC=C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | tetraethoxymethane | 47.7 mmol, 10 mL | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | 4-chloro-2-ethoxybenzimidazole | 1.38 g, 35% | ClC1=CC=CC=2N=C(NC21)OCC | C9H9ClN2O
